US07253196B2
(5S)-2-(cycloheptylamino)-5-methyl-1,3-thiazol-4(5H)-one
Synthesis was performed from N-cycloheptylthiourea and (2S)-2-bromopropanoic acid according to Method C.

reactant | N-cycloheptylthiourea | C1(CCCCCC1)NC(=S)N | C8H16N2S
reactant | (2S)-2-bromopropanoic acid | Br[C@H](C(=O)O)C | C3H5BrO2
product | (5S)-2-(cycloheptylamino)-5-methyl-1,3-thiazol-4(5H)-one | C1(CCCCCC1)NC=1S[C@H](C(N1)=O)C | C11H18N2OS
